US07842696B2
DIPEA (22.14 g, 171.3 mmol) was added to a stirred solution of tert-butoxycarbonylamino-acetic acid (10 g, 57.1 mmol) in DMF (40 mL). HOBT (9.25 g, 68.5 mmol) and EDCI.HCl (12.61 g, 68.5 mmol) were then added at room temperature. After 2 minutes N-benzylpiperazine (12.1 g, 68.5 mmol) was added, and the resulting mixture was stirred at room temperature overnight. Cold water was then added and the product was extracted with EtOAc and washed with brine. The organic phase was dried over Na2SO4 and concentrated under reduced pressure to afford 13.4 g (70.5% yield) of [2-(4-benzyl-piperazin-1-yl)-2-oxo-ethyl]-carbamic acid tert-butyl ester as white powder. 1H NMR (CDCl3): δ 7.3 (m, 5H), 5.5 (bs, 1H), 4.0 (d, 2H), 3.7-3.6 (t, 2H), 2.5 (s, 2H), 3.4 (t, 2H), 2.4 (s, 4H), 1.3 (s, 9H).

reactant | DIPEA | 171.3 mmol, 22.14 g | CCN(C(C)C)C(C)C | C8H19N
reactant | tert-butoxycarbonylamino-acetic acid | 57.1 mmol, 10 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | HOBT | 68.5 mmol, 9.25 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI.HCl | 68.5 mmol, 12.61 g | CCN=C=NCCCN(C)C.Cl
reactant | N-benzylpiperazine | 68.5 mmol, 12.1 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | [2-(4-benzyl-piperazin-1-yl)-2-oxo-ethyl]-carbamic acid tert-butyl ester | 13.4 g, 70.5% yield | C(C)(C)(C)OC(NCC(=O)N1CCN(CC1)CC1=CC=CC=C1)=O | C18H27N3O3
